US06849620B2
A mixture of 4-amino-3-hydroxybenzoic acid (250 mg, 1.63 mmol) and trimethyl orthoformate (500 μL, 4.57 mmol) are heated in an oil bath at 100° C. for 2 h. The mixture is cooled to rt and diluted with MeOH. The resulting solution is filtered through a pad of Celite, and the filtrate is concentrated in vacuo to give 1,3-benzoxazole-6-carboxylic acid as a brown solid (237 mg, 89%): 1H NMR (DMSO-d6) δ 13.2, 8.9, 8.3, 8.0, 7.9.

reactant | 4-amino-3-hydroxybenzoic acid | 1.63 mmol, 250 mg | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | trimethyl orthoformate | 4.57 mmol, 500 μL | C(OC)(OC)OC | C4H10O3
solvent | MeOH | CO | CH4O
product | 1,3-benzoxazole-6-carboxylic acid | 237 mg, 89% | O1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO3
